US06030547
Under a nitrogen atmosphere, (R)-8-(2-(2-(2-(trifluoromethoxy(tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-7-hydroxyoct-1-ene (60 g, 0.103 mol) and dry toluene (120 mL) were added to an oven-dried flask with stirring. The resulting solution was cooled to -15° C., perfluorobutanesulfonyl fluoride (58.9 g, 0.185 mol) was added, and the resulting reaction mixture was stirred for 5 minutes. 1,8-Diazabicyclo[5.4.0]undec-7-ene (28.7 g, 0.189 mol) was then added at a rate so as not to exceed a temperature of 5° C. for the reaction mixture. The reaction mixture was stirred for 1 hour at ambient temperature and was quenched by the addition of toluene (120 mL) and water (60 mL). The resulting organic phase was separated from the resulting aqueous phase, and the aqueous phase was washed with toluene. The combined organic extracts were washed with 120 mL of 7 volume % HCl. The combined extracts were concentrated under reduced pressure (25 torr), and the resulting crude product was distilled (b.p. 58-° C. at 0.01 torr) to give 33.8 g of (S)-8-(2-(2-(2-(trifluoromethoxy(tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-7-fluorooct-1-ene.

reactant | 2-(2-(trifluoromethoxy(tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-7-hydroxyoct-1-ene | 0.103 mol, 60 g | FC(OC(C(F)(F)F)(OC(C(F)(F)F)(OC(COC(=C)CCCCC(C)O)(F)F)F)F)(F)F | C15H17F13O5
reactant | perfluorobutanesulfonyl fluoride | 0.185 mol, 58.9 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 0.189 mol, 28.7 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-(trifluoromethoxy(tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-7-fluorooct-1-ene | FC(OC(C(F)(F)F)(OC(C(F)(F)F)(OC(COC(=C)CCCCC(C)F)(F)F)F)F)(F)F | C15H16F14O4
